US07557114B2
(b) 3-(2,3-Dihydro-1H-isoindol-5-yl)-2-methyl-tetrahydro-furan-3-ol
Prepared in analogy to Example A62(c) from 3-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-2-methyl-tetrahydro-furan-3-ol and hydrogen. Yellow oil. MS (m/e): 220.3 ([M+H]+, 100%).

reactant | 3-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-2-methyl-tetrahydro-furan-3-ol | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C1(C(OCC1)C)O | C20H23NO2
reactant | hydrogen | [H][H] | H2
product | 3-(2,3-Dihydro-1H-isoindol-5-yl)-2-methyl-tetrahydro-furan-3-ol | C1NCC2=CC(=CC=C12)C1(C(OCC1)C)O | C13H17NO2
